US06589970B2
A solution of 3-butyl-benzofuran-2-carbonyl chloride (9.0 mmol), prepared in the previous step, in 50 mL of methylene chloride was added under nitrogen dropwise over 2 h to a solution of (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amine (2.52 g, 9.0 mmol), prepared in step 7 of Example 36, and triethylamine (1.26 mmol, 9.0 mmol) in 250 mL of methylene chloride at room temperature. After the addition the reaction was stirred at room temperature overnight. The reaction was extracted with 1 N HCl, 5% NaHCO3, dried (MgSO4) and the solvent removed under reduced pressure to 4.13 g of a residue. Purification of the residue on 500 g of silica gel (230-400 mesh) using 90% hexane-methylene chloride to 5% EtOAc-methylene chloride as the eluents gave 3-butyl-benzofuran-2-carboxylic acid (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amide as a clear oil, MS m/z: 480 [M+H]+.

reactant | 3-butyl-benzofuran-2-carbonyl chloride | 9.0 mmol | C(CCC)C1=C(OC2=C1C=CC=C2)C(=O)Cl | C13H13ClO2
reactant | (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amine | 9.0 mmol, 2.52 g | BrC1=C2C=CC(=CC2=CC=C1OC)CNC | C13H14BrNO
reactant | triethylamine | 1.26 mmol | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-butyl-benzofuran-2-carboxylic acid (5-bromo-6-methoxy-naphthalen-2-ylmethyl)-methyl-amide | BrC1=C2C=CC(=CC2=CC=C1OC)CN(C(=O)C=1OC2=C(C1CCCC)C=CC=C2)C | C26H26BrNO3
